US05563143
2-(5-Bromo-2-methoxyphenoxy)bicyclo[2.2.1]heptane
Neat diethylazodicarboxylate (1.4 ml, 8.87 mmol, 1.2 eq) was added to a 25° C. solution of (1.50 g, 7.39 mmol, 1.0 eq) 5-bromoguaiacol, (2.13 g, 8.13 mmol, 1.1 eq) triphenylphosphine and (0.829 g, 7.39 mmol, 1.0 eq) of S(-)endo-norborneol in 25 ml of anhydrous tetrahydrofuran. After stirring 18 hours at room temperature under N2, the reaction mixture was diluted with 350 ml of ether, washed twice with 1N NaOH, once with H2O, once with brine, and then dried over anhydrous Na2SO4. Filtration, concentration and drying afforded a yellow oil which was triturated with ca 250 ml of 1:1 ether-hexane to remove triphenylphosphine oxide. The filtrate was concentrated in vacuo, and chromatographed on a silica gel column, eluting with 10% ethyl acetate-hexane, to afford 1.75 g, 80% yield, of a clear, colorless oil. Elemental Analysis: Calc'd for C14H17O2Br: Calc'd: C, 56.57; H, 5.77%. Found: C, 56.68; H, 5.73%.

reactant | diethylazodicarboxylate | 8.87 mmol, 1.4 ml, 1.2 eq | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 5-bromoguaiacol | 7.39 mmol, 1.50 g, 1.0 eq | BrC1=CC=C(C(=C1)OC)O | C7H7BrO2
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | ether | 350 ml | CCOCC | C4H10O
product | 2-(5-Bromo-2-methoxyphenoxy)bicyclo[2.2.1]heptane | 80% yield | BrC=1C=CC(=C(OC2C3CCC(C2)C3)C1)OC | C14H17BrO2
